US04889553
(a) 3-Benzylthio-5-formylamino-1-phenyl-1,2,4-triazole
5-Amino-3-benzylthio-1-phenyl-1,2,4-triazole (45 g) was suspended in acetic anhydride (31 ml) and formic acid (16.09 ml), and the mixture was stirred for 1 hour at 80° C. The solvents were then removed, and the residue was recrystallised from ethyl acetate to give 35.4 g of the desired product, mp 94° C.

reactant | 5-Amino-3-benzylthio-1-phenyl-1,2,4-triazole | 45 g | NC1=NC(=NN1C1=CC=CC=C1)SCC1=CC=CC=C1 | C15H14N4S
reactant | acetic anhydride | 31 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 16.09 ml | C(=O)O | CH2O2
product | 3-Benzylthio-5-formylamino-1-phenyl-1,2,4-triazole | 35.4 g | C(C1=CC=CC=C1)SC1=NN(C(=N1)NC=O)C1=CC=CC=C1 | C16H14N4OS
